US08168794B2
To a solution of 5-(3-nitropyridin-4-yl)-3,3a,7,7a-tetrahydrobenzo[d]oxazol-2(6H)-one (1.0 equiv.), TEA (1.8 equiv.), and catalytic amount DMAP in CH2Cl2 (0.19 M) was added di-tert-butyl dicarbonate (1.2 eqiv) at room temperature. The reaction mixture was stirred for 1 hour. The reaction mixture was diluted with ethyl acetate (100 mL), and washed with sat NaCl (30 mL). The organic was dried with MgSO4, filtered and concentrated. The residue was purified by column (5% methanol in 1:1 ethyl acetate and hexanes) to give tert-butyl 5-(3-nitropyridin-4-yl)-2-oxo-3a,6,7,7a-tetrahydrobenzo[d]oxazole-3(2H)-carboxylate (98%). LC/MS (m/z): MH+=306.0, Rt=0.75

reactant | 5-(3-nitropyridin-4-yl)-3,3a,7,7a-tetrahydrobenzo[d]oxazol-2(6H)-one | 1.0 equiv. | [N+](=O)([O-])C=1C=NC=CC1C=1CCC2C(NC(O2)=O)C1 | C12H11N3O4
reactant | di-tert-butyl dicarbonate | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | CH2Cl2 | 0.19 M | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | tert-butyl 5-(3-nitropyridin-4-yl)-2-oxo-3a,6,7,7a-tetrahydrobenzo[d]oxazole-3(2H)-carboxylate | 98% | [N+](=O)([O-])C=1C=NC=CC1C=1CCC2C(N(C(O2)=O)C(=O)OC(C)(C)C)C1 | C17H19N3O6
